US04886814
2-(2-Methyl-thiazol-4-yl)morpholine
Prepared analogously to Example O by reduction of 2-(2-methyl-thiazol-4-yl)morpholin-5-one with lithium aluminium hydride and purification of the base on a silica gel column with chloroform/methanol/ammonia=93:7:0.7 as eluant.

reactant | 2-(2-methyl-thiazol-4-yl)morpholin-5-one | CC=1SC=C(N1)C1CNC(CO1)=O | C8H10N2O2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | chloroform methanol ammonia | C(Cl)(Cl)Cl.CO.N
product | 2-(2-Methyl-thiazol-4-yl)morpholine | CC=1SC=C(N1)C1CNCCO1 | C8H12N2OS
